US04889929
A mixture of ampicillin Dane potassium salt (45.6 g), 1-bromoethyl ethyl carbonate (36.0 g), sodium bicarbonate (38.4 g) and acetonitrile (260 ml) is stirred for 3 hours at 40° C. The mixture is filtered and the cake is washed with acetonitrile (2×20 ml). Water (20 ml) is added and the mixture is stirred for 1 hour. Most of the solvent is removed by evaporation at 35°-40° C., under reduced pressure. Acetone (70 ml) and water (4.5 ml) are added. A mixture of concentrated hydrochloric acid (6.85 ml) and water (2.3 ml) is added slowly in order to keep the pH at 2-2.5. If, at the end, the pH is not stable, a small additional amount of 1:1 hydrochloric acid is added until a stable pH in the range 2-2.5 is obtained. The solution is dried and filtered. Butyl acetate (180 ml) and the solution is distilled under reduced pressure to a volume of ca. 40 ml. More butyl acetate (270 ml) is added and the product is allowed to crystallize at ca. 5° C. The mixture is filtered to give 32.5 g bacampicillin.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | potassium | 45.6 g | [K] | K
reactant | 1-bromoethyl ethyl carbonate | 36.0 g | C(OC(C)Br)(OCC)=O | C5H9BrO3
reactant | sodium bicarbonate | 38.4 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 260 ml | C(C)#N | C2H3N
product | bacampicillin | 32.5 g | CCOC(=O)OC(C)OC(=O)[C@H]1C(S[C@H]2N1C(=O)[C@H]2NC(=O)[C@@H](C=3C=CC=CC3)N)(C)C | C21H27N3O7S
